US04788195
N-[4-[2-(Dimethylamino)ethoxy]phenyl]-4-(3-pyridinyl)-2-pyrimidinamine
A 1.10 g portion of dry 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenol was dissolved in 25 ml of dimethylformamide. A 213 mg portion of sodium hydride (50% in oil) was added, the reaction was sealed and stirred for 45 minutes. A 480 mg portion of 2-dimethylaminoethyl chloride in 2 ml of dimethylformamide was added and the sealed mixture was stirred overnight. The solvent was removed at 60° C. and the residue partitioned between 25 ml of water and 50 ml of ethyl acetate. The aqueous phase was extracted twice with ethyl acetate. The organic phases were combined, washed with 1N sodium hydroxide, dried, filtered and evaporated. The residue was taken up in 20 ml of chloroform, boiled down to 1/3 volume and hexane added to turbidity. The mixture was allowed to stand overnight, giving 400 mg of the desired product as beige crystals, mp 108°-110° C.

reactant | 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenol | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)O | C15H12N4O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride | CN(CCCl)C | C4H10ClN
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[4-[2-(Dimethylamino)ethoxy]phenyl]-4-(3-pyridinyl)-2-pyrimidinamine | 400 mg | CN(CCOC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)C | C19H21N5O
